US07253286B2
2-Amino-4-(4-aminophenoxy)pyridine
After adding 1 g of 2-amino-4-(4-nitrophenoxy)pyridine to a mixture of 2.0 g of iron powder, 4.0 g of ammonium chloride, 30 ml of ethanol, 30 ml of dimethylformamide and 15 ml of water, the mixture was vigorously stirred at 100° C. for 10 minutes. The reaction solution was filtered with celite and the solvent was distilled off under reduced pressure to obtain 0.53 g of the target substance as a solid.

reactant | 2-amino-4-(4-nitrophenoxy)pyridine | 1 g | NC1=NC=CC(=C1)OC1=CC=C(C=C1)[N+](=O)[O-] | C11H9N3O3
reactant | ammonium chloride | 4.0 g | [Cl-].[NH4+]
reactant | ethanol | 30 ml | C(C)O | C2H6O
reactant | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
catalyst | iron | 2.0 g | [Fe] | Fe
solvent | water | 15 ml | O | H2O
product | 2-Amino-4-(4-aminophenoxy)pyridine | NC1=NC=CC(=C1)OC1=CC=C(C=C1)N | C11H11N3O
